US06617326B2
b) 3-Trifluoromethylimidazo[1,2-b][1,2,4]triazine
A stirred mixture of bromoacetaldehyde diethyl acetal (2.30 ml, 14.8 mmol) in concentrated hydrobromic acid (0.73 ml) and water (0.73 ml) was heated at reflux for 2 h, then poured into ethanol (25 ml). The solution was neutralised to pH 7 with solid sodium hydrogencarbonate, then filtered. To the filtrate was added 3-amino-5-trifluoromethyl-1,2,4-triazine (1.0079 g, 6.14 mmol) and the mixture was stirred at 60° C. for 20 h, then 80° C. for 23 h. The mixture was evaporated in vacuo, and the residue was purified by flash chromatography (silica gel, 35-50% EtOAc/isohexane) to give 0.2593 g (22%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 8.20 (1H, d, J 0.8 Hz), 8.30 (1H, d, J 0.9 Hz), 8.73 (1H, s).

reactant | bromoacetaldehyde diethyl acetal | 14.8 mmol, 2.30 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-amino-5-trifluoromethyl-1,2,4-triazine | 6.14 mmol, 1.0079 g | NC=1N=NC=C(N1)C(F)(F)F | C4H3F3N4
solvent | hydrobromic acid | 0.73 ml | Br | BrH
solvent | water | 0.73 ml | O | H2O
product | 3-Trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.2593 g, 22% | FC(C1=NC=2N(N=C1)C=CN2)(F)F | C6H3F3N4
